** sch_path: /home/designer/shared/my_project/cms_diode_22.sch
**.subckt cms_diode_22
XM1 Vout Vin 0 0 sg13_lv_nmos w=2.8u l=10u ng=1 m=1 mm_ok=1
C1 Vout 0 100f
V1 Vin 0 DC 0.45 AC 1
V2 VDD 0 1.2
XM2 Vout net1 VDD VDD sg13_lv_pmos w=2.8u l=10u ng=1 m=1 mm_ok=1
V3 net1 0 0.33
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt



.control

op

print v(vdd)
print v(vin)
print v(vbias)
print v(vout)

print i(V2)

let Ptotal = -v(vdd)*i(V2)
print Ptotal

ac dec 100 1 10G

plot db(vout)

.endc


**** end user architecture code
**.ends
.end
